US04886798
(8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine acetate (1.0 g) is dissolved in 50 ml 5N aqueous hydrochloric acid, and the solution evaporated to dryness. The product is suspended in ethyl acetate and filtered, air dried and recrystallized from methanol/acetone to yield (8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine hydrochloride.

reactant | (8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine acetate | 1.0 g | C(C)(=O)O.COC1=CC=2CCN3C[C@H]4CCCN([C@H]4C[C@H]3C2C=C1)S(=O)(=O)C
reactant | hydrochloric acid | 5N, 50 ml | Cl | ClH
product | (8aR,12aS,13aS)-3-methoxy-12-methanesulfonyl-5,6,8a,9,10,11,12,12a,13,13a-decahydro-8H-isoquino[2,1-g][1,6]naphthyridine hydrochloride | Cl.COC1=CC=2CCN3C[C@H]4CCCN([C@H]4C[C@H]3C2C=C1)S(=O)(=O)C | InChI=1S/C18H26N2O3S.ClH/c1-23-15-5-6-16-13(10-15)7-9-19-12-14-4-3-8-20(24(2,21)22)17(14)11-18(16)19;/h5-6,10,14,17-18H,3-4,7-9,11-12H2,1-2H3;1H/t14-,17+,18+;/m1./s1
